US09278915B2
Intermediate 70: 3-(3,5-Dimethyl-1,2-oxazol-4-yl)-3-(4-hydroxyphenyl)propanoic acid
To a 50 mL sealed was charged with (2E)-3-(4-hydroxyphenyl)prop-2-enoic acid (3.0 g, 0.018 mmol) and 3,5-dimethyl-1,2-oxazole (3.54 g, 0.054 mmol) and heated at 130° C. for 16 h. The reaction mixture diluted with water (10 mL) was added and extracted with DCM (20 mL). The combined extract was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude material was taken for next step with out purification (1.0 g, yield: 20.96%).

reactant | (2E)-3-(4-hydroxyphenyl)prop-2-enoic acid | 0.018 mmol, 3.0 g | OC1=CC=C(C=C1)/C=C/C(=O)O | C9H8O3
reactant | 3,5-dimethyl-1,2-oxazole | 0.054 mmol, 3.54 g | CC1=NOC(=C1)C | C5H7NO
solvent | water | 10 mL | O | H2O
product | 3-(3,5-Dimethyl-1,2-oxazol-4-yl)-3-(4-hydroxyphenyl)propanoic acid | yield: 20.96% | CC1=NOC(=C1C(CC(=O)O)C1=CC=C(C=C1)O)C | C14H15NO4
